US05981521
1,2,3,4-Tetrahydro-1-(4-methoxybenzyl)-6,7-dimethoxyisoquinoline was prepared by a procedure analogous to that described in example 17 for 1,2,3,4-tetrahydro-1-benzyl-6,7-di-methoxyisoquinoline but substituting in the first step (4-methoxyphenyl)acetyl chloride for phenylacetyl chloride.

reactant | 1,2,3,4-tetrahydro-1-benzyl-6,7-di-methoxyisoquinoline | C(C1=CC=CC=C1)C1NCCC2=CC(=C(C=C12)OC)OC | C18H21NO2
reactant | (4-methoxyphenyl)acetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 1,2,3,4-Tetrahydro-1-(4-methoxybenzyl)-6,7-dimethoxyisoquinoline | COC1=CC=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=C1 | C19H23NO3
